US08304419B2
Step D: 3-chloro-5-({2-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}oxy)benzonitrile
2-[(4-Chloro-3-hydroxyphenyl)methyl]-1H-isoindole-1,3(2H)-dione (0.50 g, 2.3 mmol), 3-chloro-5-fluorobenzonitrile (0.54 g, 3.5 mmol), K2CO3 (1.0 g, 7.0 mmol) and NMP (5.0 mL) were added to a round bottom flask. The reaction mixture was placed in an oil bath at 110° C. and stirred overnight. The reaction mixture was cooled to RT and aqueous 10% citric acid (25 mL) and EtOAc (25 mL) were added. Additional aqueous 10% citric acid was added until pH ˜4-5, the layers were separated and the aqueous layer was extracted with EtOAc (2×25 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated. Purification was accomplished by column chromatography (hexane/EtOAc) to afford the title compound (0.47 g, 81%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.81-7.92 (m, 4H), 7.79 (d, 1H), 7.58 (d, 1H), 7.44 (d, 1H), 7.37 (d, 1H), 7.29 (d, 1H), 7.23 (dd, 1H), 4.77 (s, 2H). MS: m/z 444.9 (M+23).

reactant | 2-[(4-Chloro-3-hydroxyphenyl)methyl]-1H-isoindole-1,3(2H)-dione | 2.3 mmol, 0.50 g | ClC1=C(C=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O)O | C15H10ClNO3
reactant | 3-chloro-5-fluorobenzonitrile | 3.5 mmol, 0.54 g | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
reactant | K2CO3 | 7.0 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | citric acid | 25 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 5.0 mL | CN1CCCC1=O | C5H9NO
product | 3-chloro-5-({2-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}oxy)benzonitrile | 0.47 g, 81% | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)CN1C(C2=CC=CC=C2C1=O)=O)Cl | C22H12Cl2N2O3
